US04894386
A solution of 1-(4-methylphenylsufonyl)indole-6-acetonitrile (9.5 g) in ethanol (58 ml) was treated with 20% (w/v) sodium hydroxide (58 ml) and heated to reflux for 2.5 hr. The ethanol was evaporated and the aqueous residue was slowly acidified at 0° with concentrated hydrochloric acid. The white precipitate was collected by filtration, washed with water and dried under vacuum to give indole-5-acetic acid (4.1 g, 68%) as an ivory powder: NMR (250 MHz, DMSO-d6): 3.57(s, 2H, ArCH2), 9.65(dd, 1H, H6 -indole), 7.40(s, 1H, H4 -indole).

reactant | 1-(4-methylphenylsufonyl)indole-6-acetonitrile | 9.5 g | CC1=CC=C(C=C1)S(=O)(=O)N1C=CC2=CC=C(C=C12)CC#N | C17H14N2O2S
reactant | sodium hydroxide | 58 ml | [OH-].[Na+]
reactant | ethanol | 58 ml | C(C)O | C2H6O
product | indole-5-acetic acid | 4.1 g, 68% | N1C=CC2=CC(=CC=C12)CC(=O)O | C10H9NO2
